US04092150
To a stirred solution of 6.3 grams of 2,4,6-trichloro-5-pyrimidinecarbonitrile in 150 ml of diethyl ether at 10° was added dropwise 8.8 grams of diethylamine in 150 ml of diethyl ether. Upon complete addition, the reaction mixture was allowed to warm to room temperature, where it was stirred for 16 hours. The reaction mixture was heated under reflux for 1 hour, then cooled to room temperature. The reaction mixture was washed with water, and the diethyl ether layer was separated. The aqueous layer was washed with diethyl ether. The ether layers were combined and dried over magnesium sulfate. The mixture was filtered, and the filtrate was evaporated under reduced pressure to a residue. The residue was recrystallized from petroleum ether to give crude 4-chloro-2,6-bis(diethylamino)-5-pyrimidinecarbonitrile. This crude material was dissolved in diethyl ether, and 4.4 grams of diethylamine was added.

reactant | 2,4,6-trichloro-5-pyrimidinecarbonitrile | 6.3 grams | ClC1=NC(=C(C(=N1)Cl)C#N)Cl | C5Cl3N3
reactant | diethylamine | 8.8 grams | C(C)NCC | C4H11N
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 4-chloro-2,6-bis(diethylamino)-5-pyrimidinecarbonitrile | ClC1=NC(=NC(=C1C#N)N(CC)CC)N(CC)CC | C13H20ClN5
